US03940394
To a solution of 4.0 g (0.0475 mole) of sodium bicarbonate in 40 ml of water was added with stirring 7.5 g (0.0475 mole) of 5-methyl-2-thiobarbituric acid. Ethyl bromoacetate (7.9 g, 0.0475 mole) was then added and 40 ml of ethanol to make a clear solution. After one-half hour a precipitate was formed. Stirring was continued for one-half hour at room temperature. The precipitate was collected and recrystallized from ethanol to give 6.3 g of (4,6-dihydroxy-5-methyl-2-pyrimidinylthio)acetic acid, ethyl ester mp. 211°-214°C.

reactant | sodium bicarbonate | 0.0475 mole, 4.0 g | C([O-])(O)=O.[Na+]
reactant | 5-methyl-2-thiobarbituric acid | 0.0475 mole, 7.5 g | CC1C(NC(NC1=O)=S)=O | C5H6N2O2S
reactant | Ethyl bromoacetate | 0.0475 mole, 7.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | (4,6-dihydroxy-5-methyl-2-pyrimidinylthio)acetic acid, ethyl ester | 6.3 g | OC1=NC(=NC(=C1C)O)SCC(=O)OCC | C9H12N2O4S
